US07081535B2
Enzyme-catalyzed diastereoselective reduction of 2-isobutyl-3-ketoglutarate diethyl ester
To 40 mL of 300 mM potassium phosphate buffer buffer, pH=6.5, containing NaCl (100 mM), DMSO (3% v:v), glucose (200 mM), and glycerol (10% v:v), 40 mM of 2-isobutyl-3-ketoketoglutarate diethyl ester was added along with 100 mg of lyophilized KRED 1001 and 30 mg of glucose dehydrogenase. The reaction mixture was incubated for 48 hours at 37 C. Gas chromatographic analysis showed that the yield of hydroxy diester product was greater than 80%. The product was isolated by extraction of the reaction mixture with ethyl acetate and purification using silica gel chromatography. Isolated yield was in the range of 85–95%.

reactant | potassium phosphate | 300 mM, 40 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | NaCl | 100 mM | [Na+].[Cl-]
reactant | glucose | 200 mM | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 2-isobutyl-3-ketoketoglutarate diethyl ester | 40 mM | C(C)OC(C(C(C(C(=O)OCC)=O)=O)CC(C)C)=O | C13H20O6
reactant | glucose | 30 mg | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | glycerol | OCC(O)CO | C3H8O3
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-isobutyl-3-ketoglutarate diethyl ester | C(C)OC(C(C(CC(=O)OCC)=O)CC(C)C)=O | C13H22O5
